US04202899
5-[3-(Dimethylamino)propoxy]-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine
To a suspension of 3.6 g of sodium hydride in 100 ml of dry benzene 15.3 g of 3-(dimethylamino)propanol are added and the mixture is refluxed for 6 hours. After this time, 28.6 g of 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine are added in small portions with stirring. The solution is refluxed for 10 hours, and then the solvent is distilled off. The residue is treated with water, filtered off and recrystallized from ethyl acetate, yield 25 g (71%); m.p. 62°-64°.

reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | 3-(dimethylamino)propanol | CN(CCCO)C | C5H13NO
reactant | 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine | 28.6 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C | C13H11ClN6
solvent | benzene | 100 ml, 15.3 g | C1=CC=CC=C1 | C6H6
product | 5-[3-(Dimethylamino)propoxy]-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine | CN(CCCOC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C)C | C18H23N7O
